US07897607B2
1-Mesityl-6-methyl-4-[[4-(trifluoromethyl)benzyl]oxy]-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one
To a solution of 4-(trifluoromethyl)benzyl alcohol (0.062 ml, 0.45 mmol) in DMF (1 ml) was added sodium hydride (60% in oil, 18 mg, 0.45 mmol). The mixture was stirred for 10 min before addition of 4-chloro-1-mesityl-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one (45.3 mg, 0.15 mmol). The mixture was stirred at 60° C. for 1 hour, then diluted with water (30 ml) and extracted with ethyl acetate (50 ml). The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (5:1) to give 16 mg (24%) of the title compound as crystals.

reactant | 4-(trifluoromethyl)benzyl alcohol | 0.45 mmol, 0.062 ml | FC(C1=CC=C(CO)C=C1)(F)F | C8H7F3O
reactant | sodium hydride | 0.45 mmol, 18 mg | [H-].[Na+]
reactant | 4-chloro-1-mesityl-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one | 0.15 mmol, 45.3 mg | ClC=1C2=C(C(N(N1)C)=O)N(C=C2)C2=C(C=C(C=C2C)C)C | C16H16ClN3O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | 1-Mesityl-6-methyl-4-[[4-(trifluoromethyl)benzyl]oxy]-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one | 16 mg, 24% | C1(=C(C(=CC(=C1)C)C)N1C=CC2=C1C(N(N=C2OCC2=CC=C(C=C2)C(F)(F)F)C)=O)C | C24H22F3N3O2
